US07388019B2
Step A: 2-[(3R)-3-[(tert-Butoxycarbonyl)amino]-4-(2-fluorophenyl)butanoyl]-7-nitro-1,2,3,4-tetrahydroisoquinoline
(3R)-3-[(tert-Butoxycarbonyl)amino]4-(2-fluorophenyl)butanoic acid (0.69 g; 2.34 mmol) and 7-nitro-1,2,3,4 tetrahydroisoquinoline (0.50 g; 2.34 mmol) were treated with EDC (0.54 g, 2.8 mmol), HOBt (0.38 g, 2.8 mmol) and N,N-diisopropylethylamine (0.60 g, 4.67 mmol) essentially following the procedure outlined in Example 1, Step A. Purification by flash chromatography (silica gel; 35% ethyl acetate/hexanes as eluant) afforded the title compound. LC/MS: 358.1 (M+1-BOC)

reactant | (3R)-3-[(tert-Butoxycarbonyl)amino]4-(2-fluorophenyl)butanoic acid | 2.34 mmol, 0.69 g | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)CC1=C(C=CC=C1)F | C15H20FNO4
reactant | 7-nitro-1,2,3,4 tetrahydroisoquinoline | 2.34 mmol, 0.50 g | [N+](=O)([O-])C1=CC=C2CCNCC2=C1 | C9H10N2O2
reactant | EDC | 2.8 mmol, 0.54 g
reactant | HOBt | 2.8 mmol, 0.38 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 4.67 mmol, 0.60 g | C(C)(C)N(C(C)C)CC | C8H19N
product | 2-[(3R)-3-[(tert-Butoxycarbonyl)amino]-4-(2-fluorophenyl)butanoyl]-7-nitro-1,2,3,4-tetrahydroisoquinoline | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)N1CC2=CC(=CC=C2CC1)[N+](=O)[O-])CC1=C(C=CC=C1)F | C24H28FN3O5
